US06476028B1
a) 5-Phenylmethoxy-3-[1,2,3,6-tetrahydro-1-(phenylmethyl) 4-pyridinyl]-1H-indole
A slurry of 5-benzyloxyindole (6.85 g, 30.7 mmol) in methanol (50 mL) was added to a 25 wgt % solution of sodium methoxide in methanol (115 mL) at 5° C. under argon. 1-Benzyl-4-piperidone (5.8 g, 30.7 mmol) was added in one portion and the suspension heated at reflux for 16 h, cooled and diluted with a mixture of dichloromethane (100 mL) and methanol (150 mL). The solution was acidified to pH 5 with glacial acetic acid, concentrated to 100 mL, diluted with water (750 mL) and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with water (100 mL) and brine (100 mL) and dried (Na2SO4). Filtration and concentration in vacuo gave the title compound as a yellowrange solid (10.6 g, 87%). MS(ES) m/e 395.2 [M+H]+.

reactant | 5-benzyloxyindole | 30.7 mmol, 6.85 g | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | 1-Benzyl-4-piperidone | 30.7 mmol, 5.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 115 mL | CO | CH4O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | methanol | 150 mL | CO | CH4O
product | 5-Phenylmethoxy-3-[1,2,3,6-tetrahydro-1-(phenylmethyl) 4-pyridinyl]-1H-indole | C1(=CC=CC=C1)COC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CC1=CC=CC=C1 | C27H26N2O
